US07122666B2
10(v)′ (2S,8aS)-2-Methoxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
2.10 g (55 mmol) of lithium aluminum hydride were added, with stirring and ice-cooling, to a solution of 4.26 g (18.1 mmol) of (2S,8aS)-2-methoxy-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one [obtained as described in Preparative Example 10(iv)′ above] in 50 ml of tetrahydrofuran, and the resulting mixture was then stirred for a further 3 hours at room temperature. At the end of this time, 8.40 ml of a 1N aqueous solution of sodium hydroxide were carefully added to the reaction mixture, followed by the addition of ethanol, and then any insoluble materials were removed by filtration. The filtrate thus obtained was concentrated by evaporation under reduced pressure and the resulting residue was purified by chromatography on an alumina column using ethyl acetate as the eluant afford to 1.60 g (yield: 51%) of the title compound as a pale brown oil.

reactant | lithium aluminum hydride | 55 mmol, 2.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,8aS)-2-methoxy-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one | 18.1 mmol, 4.26 g | CO[C@H]1C[C@@H]2CC(=CC(N2C1)=O)N1CCCC1 | C13H20N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (2S,8aS)-2-Methoxy-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 1.60 g, yield: 51% | CO[C@H]1C[C@H]2CC(CCN2C1)=O | C9H15NO2
